US04246263
Furthermore, by following this method 2-(4-pyridyl)ethyl mercaptan is reacted with 2-bromoethanol to yield 4-[2-(2-hydroxyethylthio)ethyl]pyridine, with 2-bromo-1-propanol to yield 4-[2-(2-hydroxy-1-propylthio)ethyl]pyridine, with 3-bromo-2-butanol to yield 4-[2-(3-hydroxy-2-butylthio)ethyl]pyridine, with ethyl 2-chloropropionate to yield ethyl 2-[2-(4-pyridyl)ethylthio]propionate, with methyl 2-phenyl-2-bromoacetate to yield methyl 2-phenyl-2-[2-(4-pyridyl)ethylthio]acetate, with alpha-bromoacetophenone to yield alpha-[2-(4-pyridyl)ethylthio]acetophenone, and with chloroacetone to yield 2-(4-pyridyl)ethylthioacetone.

reactant | 2-(4-pyridyl)ethyl mercaptan | N1=CC=C(C=C1)CCS | C7H9NS
reactant | 2-bromoethanol | BrCCO | C2H5BrO
product | 4-[2-(2-hydroxyethylthio)ethyl]pyridine | OCCSCCC1=CC=NC=C1 | C9H13NOS
